US05545630
12,12-Difluorododec-11-enoic acid N-(4-trimethylsilylphenyl)amide
2.5 g of 12,12-difluorododec-11-enoic acid methyl ester are added at room temperature to 1.53 g of 4-trimethylsilylaniline in 25 ml of toluene. The mixture is stirred for 2 hours at 80° and then concentrated by evaporation in vacuo. The residue is taken up in toluene, the toluene phase is washed with water, dried over sodium sulfate and concentrated to dryness by evaporation. The residue is taken up in hexane:ethyl acetate (9:1) and filtered over silica gel. Evaporation of the filtrate yields the title compound (nD24 =1.5038; compound no. 1-2).

reactant | 12,12-difluorododec-11-enoic acid methyl ester | 2.5 g | COC(CCCCCCCCCC=C(F)F)=O | C13H22F2O2
reactant | 4-trimethylsilylaniline | C[Si](C1=CC=C(N)C=C1)(C)C | C9H15NSi
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 12,12-Difluorododec-11-enoic acid N-(4-trimethylsilylphenyl)amide | C[Si](C1=CC=C(C=C1)NC(CCCCCCCCCC=C(F)F)=O)(C)C | C21H33F2NOSi
